US08877744B2
A dried pressure tube was charged with potassium acetate (411 mg, 4.2 mmol), bis(triphenylphosphin)palladium(II)chloride (41.7 mg, 58.2 μmol), 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) (316 mg, 1.4 mmol), and dioxane (13 ml). After addition of (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (intermediate B9.1) the tube was flushed with argon, sealed and heated at 110° C. for 15 hours. For the workup, the reaction mixture was cooled to room temperature and evaporated at reduced pressure. The residue was partitioned between dichloromethane and water. The organic layer was washed with brine, dried over sodium sulphate and evaporated at reduced pressure. The crude [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine (918 mg) was obtained as a light brown foam and engaged in the next step without further purification.

reactant | potassium acetate | 4.2 mmol, 411 mg | C(C)(=O)[O-].[K+]
reactant | 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) | 1.4 mmol, 316 mg | CC1(COB(OC1)B1OCC(CO1)(C)C)C | C10H20B2O4
reactant | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | COC1=CC=C(C=C1)C(NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)Br)F)(F)F)(C)C)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C35H34BrF3N2O3
catalyst | bis(triphenylphosphin)palladium(II)chloride | 58.2 μmol, 41.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine | 918 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)(F)F)(C)C | C40H44BF3N2O5
